US04727073
A mixture of 5-acetyl-6-(2-dimethylaminoethyl)-4-(3-nitrophenyl)-2-phenylpyrimidine (1 g) and sodium borohydride (0.1 g) in methanol (40 ml) was stirred for 1 hour. The reaction mixture was poured into a mixture of water and chloroform and adjusted the pH to 9. The extract was dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of chloroform and methanol (20:1). The fractions containing the desired product were combined and concentrated in vacuo. The residue was recrystallized from diethyl ether to afford 6-(2-dimethylaminoethyl)-5-(1-hydroxyethyl)-4-(3-nitrophenyl)-2-phenylpyrimidine (0.2 g).

reactant | 5-acetyl-6-(2-dimethylaminoethyl)-4-(3-nitrophenyl)-2-phenylpyrimidine | 1 g | C(C)(=O)C=1C(=NC(=NC1CCN(C)C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C22H22N4O3
reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 40 ml | CO | CH4O
product | 6-(2-dimethylaminoethyl)-5-(1-hydroxyethyl)-4-(3-nitrophenyl)-2-phenylpyrimidine | 0.2 g | CN(CCC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(C)O)C | C22H24N4O3
